US09193693B2
Step 1. Methyl 3-(cyclopentylamino)-2-phenylquinoxaline-6-carboxylate
Into an 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (200 mg, 0.58 mmol, 1.00 equiv), cyclopentanamine (246.8 mg, 2.90 mmol, 5.00 equiv), and n-BuOH (2 mL). The resulting solution was stirred for 4 hrs at 100° C. in an oil bath. The resulting mixture was concentrated in vacuo. The residue was purified by silica gel chromatography with ethyl acetate/petroleum ether (1:50) resulting in 214.1 mg (crude) of methyl 3-(cyclopentylamino)-2-phenylquinoxaline-6-carboxylate as a yellow oil.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.58 mmol, 200 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | cyclopentanamine | 2.90 mmol, 246.8 mg, 5.00 equiv | C1(CCCC1)N | C5H11N
solvent | n-BuOH | 2 mL | CCCCO | C4H10O
product | Methyl 3-(cyclopentylamino)-2-phenylquinoxaline-6-carboxylate | C1(CCCC1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C21H21N3O2
